US06989399B2
4-Chloro-N-(2,5-dichloro-phenyl)-N-(1R)-(1-methyl-4-trityloxybutyl)benzenesulfonamide
To N-(2,5-dichlorophenyl)-4-chlorobenzenesulfonamide (5.0 g, 15 mmol), (S) -4-trityloxy-butan-2-ol (7.7 g, 22 mmol), and triphenylphosphine (5.8 g, 22 mmol) in THF (200 mL) at 0° C. was added diethyl azodicarboxylate (3.8 g, 22 mmol). The reaction was allowed to warm to ambient temperature with stirring 18 h The reaction was then diluted with EtOAc and washed with H2O, 1N HCl, and brine. The organic phase was dried over MgSO4, filtered, and concentrated in vacuo. Silica gel chromatography (15% EtOAc/hexanes) of the concentrate afforded the title compound as a white solid (5.25 g, 55% yield).

reactant | N-(2,5-dichlorophenyl)-4-chlorobenzenesulfonamide | 15 mmol, 5.0 g | ClC1=C(C=C(C=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)Cl | C12H8Cl3NO2S
reactant | (S) -4-trityloxy-butan-2-ol | 22 mmol, 7.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCC[C@H](C)O | C23H24O2
reactant | triphenylphosphine | 22 mmol, 5.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 22 mmol, 3.8 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Chloro-N-(2,5-dichloro-phenyl)-N-(1R)-(1-methyl-4-trityloxybutyl)benzenesulfonamide | 5.25 g, 55% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)C1=C(C=CC(=C1)Cl)Cl | C36H32Cl3NO3S
